US07589109B2
Step 1. Ethyl 3-(4-{[(tert-butoxycarbonyl)amino]methyl}piperidin-1-yl)propanoate
A mixture of tert-butyl(piperidin-4-ylmethyl)carbamate (3.0 g, 14 mmol) and ethyl acrylate (1.7 g, 17 mmol) in ethanol (30 mL) was refluxed for 1 h. After cooled to room temperature, the solution was concentrated to give clear colorless oil. The residue was chromatographed on a silica gel column eluting with CH2Cl2/methanol (14:1) to give 4.0 g (91%) of the title compound as clear colorless oil.

reactant | tert-butyl(piperidin-4-ylmethyl)carbamate | 14 mmol, 3.0 g | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | ethyl acrylate | 17 mmol, 1.7 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | Ethyl 3-(4-{[(tert-butoxycarbonyl)amino]methyl}piperidin-1-yl)propanoate | 4.0 g, 91% | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCC(=O)OCC | C16H30N2O4
